US07625908B2
2-Hydroxy-N-methyl-N-{(1R)-1-methyl-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide
The procedure described in Example 3 was repeated using 2-(chloromethyl)pyridine and 2-hydroxy-N-[(1R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-N-methylacetamide to give the title compound as a white solid in 15% yield; NMR spectrum (DMSO-d6 373K) 1.25 (d, 3H), 2.28 (s, 3H), 2.83 (s, 3H), 3.96 (s, 2H), 4.35 (m, 1H), 4.46 (t, 1H), 4.97 (m, 1H), 5.19 (s, 2H), 7.01 (d, 1H), 7.18 (d, 2H), 7.33 (m, 2H), 7.44 (m, 1H), 7.56 (d, 1H), 7.68 (t, 1H), 7.83 (td, 1H), 8.40 (s, 1H), 8.58 (d, 1H), 9.48 (s, 1H); Mass spectrum MH+ 488.

reactant | 2-(chloromethyl)pyridine | ClCC1=NC=CC=C1 | C6H6ClN
reactant | 2-hydroxy-N-[(1R)-2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-N-methylacetamide | OCC(=O)N(C)[C@@H](COC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C)C | C21H24N4O4
product | 2-Hydroxy-N-methyl-N-{(1R)-1-methyl-2-[(4-{[3-methyl-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}acetamide | 15% yield | OCC(=O)N([C@@H](COC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)C)C | C27H29N5O4
